US06852867B2
Thirty grams (0.12 mol) of 6-methanesulfonyloxyundecane was dissolved in 150 mL of N,N-dimethylformamide and 15.3 g (0.36 mol) of anhydrous lithium chloride was added to the solution under cooling with ice. The mixture was warmed to 50˜55° C. and stirred for 3 hours. Thereafter, the mixture was cooled to 15° C. and 300 mL of cold water was added. The reaction mixture was extracted three times with 150 mL of hexane and the organic layer was sequentially washed with 150 mL of water and 150 mL of a saturated aqueous solution of sodium chloride and thereafter dried over 6 g of anhydrous magnesium sulfate. After filtering off the anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to give 22.2 g (97.1% in yield) of 6-chloroundecane.

reactant | 6-methanesulfonyloxyundecane | 0.12 mol, Thirty grams | CS(=O)(=O)OC(CCCCC)CCCCC | C12H26O3S
reactant | lithium chloride | 0.36 mol, 15.3 g | [Cl-].[Li+]
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 6-chloroundecane | 22.2 g, 97.1% | ClC(CCCCC)CCCCC | C11H23Cl
